US07772246B2
To a solution of 5-bromo-3-iodopyridin-2-amine (B-7-1) (20 g, 66.9 mmol) in Et3N (200 mL) was added CuI (1.27 g, 6.69 mmol), and the resulting mixture was degassed with N2 for 2 minutes. Then Pd(PPh3)2Cl2 (1.4 g, 20.1 mmol) was added and the mixture was degassed again. Then ethynyl-trimethyl-silane (7.2 g, 73.6 mmol) was added dropwise into the mixture at 0° C. The mixture was stirred at room temperature for 4 hours. TLC (Petroleum ether: EtOAc=5:1) showed that the reaction was complete. The mixture was evaporated under reduced pressure to give crude mixture which was purified via a silica gel column eluted with petroleum ether/EtOAc (20:1) to afford 5-bromo-3-(2-(trimethylsilyl)ethynyl)pyridin-2-amine (B-7-2) (10 g, 55.6%) as a white solid.

reactant | 5-bromo-3-iodopyridin-2-amine | 66.9 mmol, 20 g | BrC=1C=C(C(=NC1)N)I | C5H4BrIN2
reactant | ethynyl-trimethyl-silane | 73.6 mmol, 7.2 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | Et3N | 200 mL | CCN(CC)CC | C6H15N
catalyst | CuI | 6.69 mmol, 1.27 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 20.1 mmol, 1.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-bromo-3-(2-(trimethylsilyl)ethynyl)pyridin-2-amine | 10 g, 55.6% | BrC=1C=C(C(=NC1)N)C#C[Si](C)(C)C | C10H13BrN2Si
